Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / Motrin
 
Attending: ___
 
Chief Complaint:
swelling, pain

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo G12P8, ___ presents complaining of generalized swelling
of her entire body, including her face, hands and legs.  She 
also
complains of diffuse pain "all over my body".  She localizes 
most
of the pain to her right leg.

The patient has a hx of cHTN and has been taking HCTZ throughout
this pregnancy.  She has a hx pre-e with two of her prior
pregnancies and received magnesium sulfate twice peripartum.  
She
denies sx of pre-e presently.

Regarding her complaint of diffuse swelling, she states that 
this
happened acutely, but has improved prior to presentation.  She
reports that she has used a new body spray, which she wonders if
that was related.  She does not report any itching and has no
urticaria.

The patient has a hx of R sciatica which has been exacerbated by
prior pregnancies.  She states that with each pregnancy, her
sciatica has gotten worse.

She reports R leg pain, most intense R posterior thigh with
radiation down her leg.  She reports some paresthesias along her
leg.  The pain is exacerbated with ambulation.  She denies
urinary retention or fecal incontinence.

She reports +FM, no LOF, no VB.  She denies HA, abd pain, vision
changes.

 
Past Medical History:
HTN
Asthma
T2DM
 
Social History:
denies T/E/D

 
Physical Exam:
97.6  105 ->94  133/96 -> 144/73  16  100%
Pain, but appears well
No evidence of anasarca
Clear
RRR
Palpation of spine NT
No CVAT
Gravid, NT, ND.  Well healed vertical midline incision.
1+ ___ edema, symmetric.  Tenderness R calf, pop fossa 
RLE sensory exam nl, motor exam limited by pain
+ straight leg raise.
Pelvic: Deferred

FHM: 130, mod variability, no decel, no accel
Toco: flat

TAUS: vtx, ___ AFI 22.0

 
Pertinent Results:
136|100| ___ /119
2.9|25 |0.7\
ALT 48  AST 118
UA 8.8

UA Clean, no prot

WBC 4.8  H/H 10.5/31.4  Plt 314

___ 24hr prot 336mg

___ 07:20AM   ALT(SGPT)-40 AST(SGOT)-80* LD(LDH)-318*
___ 07:20AM   URIC ACID-7.9*
___ 07:20AM   WBC-4.7 RBC-3.65* HGB-10.1* HCT-29.0* MCV-80* 
MCH-27.7 MCHC-34.8 RDW-14.8
 
Brief Hospital Course:
The patient was admitted with for E&M regarding leg pain and 
swelling as well as to w/u possible pre-E.  She had had very 
little prenatal care.

Her leg pain was attributed to her longstanding sciatica as LEUS 
was neg for DVT and MRI showed no acute process.  

She ruled in for pre-e with a 24hr urine with 336mg protein, 
however, her bp was never elevated, she required no meds and had 
no sx of pre-e.  When she presented, she was on HCTZ which was 
dc'd.   Her elevated transaminases on admission resolved 
spontaneously.  RUQ ultrasound was unremarkable.

She was followed by the ___ service given her Dx T2DM.  When 
she presented, she was on metformin, which was dc'd in favor of 
insulin.

She was maintained in house and was induced after documentation 
of FLM at 36.6 wks.  Her post-partum course was uneventful and 
she was discharged home.
 
Medications on Admission:
HCTZ 25mg qd
Metformin 500mg bid
PNV
Tylenol
 
Discharge Medications:
1. Dilaudid 2 mg Tablet Sig: ___ Tablets PO every six (6) hours 
as needed for pain for 4 weeks.
Disp:*40 Tablet(s)* Refills:*0*
2. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO at bedtime 
as needed for pain for 4 weeks.
Disp:*30 Capsule(s)* Refills:*0*
3. Colace 100 mg Capsule Sig: One (1) Capsule PO three times a 
day as needed for constipation.
Disp:*30 Capsule(s)* Refills:*0*
4. glucose monitor  Sig: One (1)   as directed.
Disp:*1 1* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p vaginal delivery
f/u with ___ staff re: Type 2 DM
f/u physical therapy as scheduled

 
Discharge Condition:
stable

 
Discharge Instructions:
follow routine post-partum orders
 
Followup Instructions:
___